US05958942
i) Synthesis of 4,5-dihydro-4-[3-(piperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride
To a solution prepared by dissolving 2.12 g (5.51 mM) of 4,5-dihydro-4-[3-(1-tert-butoxycarbonylpiperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one in 30 ml of ethanol was added 1.40 ml of 12N-hydrochloric acid and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the solvent was distilled off under reduced pressure. To the residue was added 5 ml of ethanol and 5 ml of ether and the resulting precipitate was recovered by filtration. The precipitate was rinsed with small amounts of ethanol and ether to provide 1.87 g (yield 91.2%) of the title compound as light-yellow crystals.

reactant | 4,5-dihydro-4-[3-(1-tert-butoxycarbonylpiperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 5.51 mM, 2.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN1C(C2=CN=C3C=CC=C(C1)N32)=O | C22H30N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-[3-(piperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride | 1.87 g, yield 91.2% | Cl.Cl.N1CCC(CC1)CCCN1C(C2=CN=C3C=CC=C(C1)N32)=O | InChI=1S/C17H22N4O.2ClH/c22-17-15-11-19-16-5-1-4-14(21(15)16)12-20(17)10-2-3-13-6-8-18-9-7-13;;/h1,4-5,11,13,18H,2-3,6-10,12H2;2*1H
